US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1-trityl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (29 g: 22.9 mMol.) in a mixture of anisole (50 ml) and nitromethane (200 ml) is added dropwise a solution of aluminum chloride (20.7 g: 156 mMol.) in anisole (50 ml) at -30° to -40° C., and the mixture is stirred for 1 hour at the same temperature. The reaction mixture is diluted with 1N-hydrochloric acid (200 ml) and water, and washed with ethyl acetate. The aqueous layer is concentrated to remove organic solvent under reduced pressure and passed through a column of styrene-divinylbenzene copolymer adsorbent. The product is eluted with aqueous methanol (4:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid (8.07 g) as pale yellow powder. Yield: 68%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1-trityl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 22.9 mMol, 29 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC=2N=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C71H60N8O6S4
reactant | aluminum chloride | 156 mMol, 20.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 50 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 200 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 50 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 200 ml | Cl | ClH
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid | 8.07 g, Yield: 68% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2N=NNC2)C(=S)O)C1=O)=N/O | C15H14N8O4S4
